US08012956B2
To a solution of ethyl 4-cyano-3-[(trans-4-piperidin-1-ylcyclohexyl)amino]benzoate (0.145 g, 0.41 mmol) in DMSO (0.5 mL) was added a 30% hydrogen peroxide solution (0.078 mL, 0.81 mmol) and potassium carbonate (0.014 g, 0.10 mmol). The reaction mixture was stirred at 50° C. for 3 h. A mixture of methanol (1.5 mL) and water (0.5 mL) was then added followed by potassium hydroxide (0.046 g, 0.81 mmol), and the solution was stirred at 55° C. for 2 h. The mixture was acidified to pH 5 by addition of 1N aqueous hydrochloric acid and lyophilized to afford crude 4-(aminocarbonyl)-3-(trans-4-(piperidin-1-yl)cyclohexylamino]benzoic acid which was used without further purification. MS (EI) for C19H27N3O3: 346 (MH+).

reactant | ethyl 4-cyano-3-[(trans-4-piperidin-1-ylcyclohexyl)amino]benzoate | 0.41 mmol, 0.145 g | C(#N)C1=C(C=C(C(=O)OCC)C=C1)N[C@@H]1CC[C@H](CC1)N1CCCCC1 | C21H29N3O2
reactant | hydrogen peroxide | 0.81 mmol, 0.078 mL | OO | H2O2
reactant | potassium carbonate | 0.10 mmol, 0.014 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium hydroxide | 0.81 mmol, 0.046 g | [OH-].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
solvent | water | 0.5 mL | O | H2O
solvent | methanol | 1.5 mL | CO | CH4O
product | 4-(aminocarbonyl)-3-(trans-4-(piperidin-1-yl)cyclohexylamino]benzoic acid | NC(=O)C1=C(C=C(C(=O)O)C=C1)N[C@@H]1CC[C@H](CC1)N1CCCCC1 | C19H27N3O3
